US07838499B2
Preparation of (R)-3-(2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethoxy)tetrahydrofuran (Intermediate CI)
To a stirred solution of (R)-tetrahydrofuran-3-ol (320 mg, 3.63 mmol) in dry tetrahydrofuran (10 mL) was added sodium hydride (145 mg, 3.63 mmol, 60%) slowly under 0° C. The reaction was stirred at this temperature for 30 min and then 2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethyl 4-methylbenzenesulfonate (intermediate AB) (300 mg, 0.61 mmol) was added. The reaction was warmed to room temperature and then heated to reflux overnight. The reaction was quenched with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to a yellow oil. The crude oil was purified by flash chromatography to get 200 mg of colorless oil (80% yield).

reactant | (R)-tetrahydrofuran-3-ol | 3.63 mmol, 320 mg | O1C[C@@H](CC1)O | C4H8O2
reactant | sodium hydride | 3.63 mmol, 145 mg | [H-].[Na+]
reactant | 2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethyl 4-methylbenzenesulfonate | 0.61 mmol, 300 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C22H20BrClO4S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (R)-3-(2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethoxy)tetrahydrofuran | 200 mg, 80% yield | BrC=1C=CC(=C(CC2=CC=C(OCCO[C@H]3COCC3)C=C2)C1)Cl | C19H20BrClO3
